US04937251
6-[2-(2-Pyridinyl)ethoxy]hexanoic acid
A solution of 6-[2-(2-pyridinyl)ethoxy]hexanol (1.0 g) and pyridinium dichromate (5.90 g) in DMF (12 ml) was stirred at room temperature for 24 h. The solution was diluted with water (100 ml) and extracted with ether (2×100 ml). The combined organic extracts were washed with water (100 ml), dried and evaporated in vacuo to give a colourless oil. The original aqueous washes were combined and re-extracted with dichloromethane (2×150 ml), washed with water (100 ml), dried and evaporated in vacuo to give a brown oil. The original aqueous washes were then buffered to pH 6.5 using phosphate buffer and solid NaCl added. The saturated solution was extracted with dichloromethane (2×100 ml), washed with water (100 ml), dried and evaporated in vacuo to give a brown oil. The three oils were combined and purified by FCC eluting with hexane-ether (1:1) followed by methanol to afford a yellow oil, which was dissolved in dichloromethane (50 ml) and filtered. The filtrate was evaporated in vacuo to give the title compound as a green oil (0.55 g), t.l.c. (System A 40:10:1) Rf 0.6.

reactant | 6-[2-(2-pyridinyl)ethoxy]hexanol | 1.0 g | N1=C(C=CC=C1)CCOCCCCCCO | C13H21NO2
reactant | pyridinium dichromate | 5.90 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-[2-(2-Pyridinyl)ethoxy]hexanoic acid | 0.55 g | N1=C(C=CC=C1)CCOCCCCCC(=O)O | C13H19NO3
